US09340547B2
c) 1-Amino-3-chloro-1H-pyrrole-2-carboxylic acid
To a solution of benzyl 1-amino-3-chloro-1H-pyrrole-2-carboxylate (20.56 g, 0.08 mol) in methanol (205 mL) was added 32.1 mL of a 3M methanolic solution of HCl (0.1 mol) and 7.7 g (0.07 mol) of 10% palladium on charcoal and this mixture was submitted to hydrogenation in a Parr apparatus working at 25 psi and room temperature during 21 hours. At the end of this period, the reaction was stopped filtering palladium catalyst through a pad of Celite® and the filtrate was concentrated in vacuum to give a light brown solid that was macerated with 40 mL of diethyl ether. This solid was filtrated and washed with petroleum ether to yield 13.32 g of the title compound with a purity of 55% (59% yield) being the dehalogenated compound the main impurity. No further purifications were done proceeding to the next step.

reactant | benzyl 1-amino-3-chloro-1H-pyrrole-2-carboxylate | 0.08 mol, 20.56 g | NN1C(=C(C=C1)Cl)C(=O)OCC1=CC=CC=C1 | C12H11ClN2O2
reactant | HCl | 0.1 mol | Cl | ClH
reactant | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | methanol | 205 mL | CO | CH4O
catalyst | palladium on charcoal | 0.07 mol, 7.7 g | [Pd] | Pd
product | 1-Amino-3-chloro-1H-pyrrole-2-carboxylic acid | 13.32 g, 59% yield | NN1C(=C(C=C1)Cl)C(=O)O | C5H5ClN2O2
